US08309061B2
Beclomethasone
Also preferably, the steroidal anti-inflammatory of the present formulations is beclomethasone dipropionate or its monohydrate. Beclomethasone dipropionate has the chemical name 9-chloro-11 b, 17,21-trih-ydroxy-16b-methylpregna-1,4-diene-3,20-doine 17,21-dipropionate. The compound may be a white powder with a molecular weight of 521.25; and is very slightly soluble in water (Physicians' Desk Reference.RTM), very soluble in chloroform, and freely soluble in acetone and in alcohol.

reactant | beclomethasone dipropionate | CCC(=O)OCC(=O)[C@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)Cl)O)C)C)OC(=O)CC | C28H37ClO7
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | CC(=O)C | C3H6O
product | Beclomethasone | C[C@H]1C[C@H]2[C@@H]3CCC4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)CO)O)C)O)Cl)C | C22H29ClO5
